US08975398B2
N-[4-(1-{[4-methyl-1-(oxetan-3-yl)piperidin-4-yl]methyl}-1H-pyrazol-4-yl)phenyl]-1-(6-methylpyridazin-3-yl)azetidine-3-carboxamide
N-(4-(1-((4-Methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)phenyl)-1-(6-methylpyridazin-3-yl)azetidine-3-carboxamide was dissolved in methanol (3 ml) and treated with oxetan-3-one (0.022 ml, 0.338 mmol) and sodium cyanoborohydride (0.021 g, 0.338 mmol) and stiffed overnight. The mixture was concentrated, purified by normal phase chromatography, triturated with ether and concentrated to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.09 (s, 1H), 8.05 (s, 1H), 7.82 (s, 1H), 7.64-7.58 (m, 2H), 7.56-7.49 (m, 2H), 7.29 (d, J=9.1 Hz, 1H), 6.80 (d, J=9.0 Hz, 1H), 4.51 (t, J=6.4 Hz, 2H), 4.40 (t, J=5.8 Hz, 2H), 4.20 (t, J=8.3 Hz, 2 H), 4.12 (dd, J=7.9, 6.1 Hz, 2H), 3.98 (s, 2H), 3.73 (tt, J=8.5, 6.1 Hz, 1H), 3.48-3.39 (m, 1H), 2.44 (s, 3 H), 2.42-2.33 (m, 2H), 2.16-1.99 (m, 2H), 1.58-1.46 (m, 2H), 1.30 (d, J=12.6 Hz, 2H), 0.89 (s, 3 H); MS (ESI(+)) m/e 502 (M+H)+.

reactant | N-(4-(1-((4-Methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)phenyl)-1-(6-methylpyridazin-3-yl)azetidine-3-carboxamide | CC1(CCNCC1)CN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC(=CC1)C | C25H31N7O
reactant | oxetan-3-one | 0.338 mmol, 0.022 ml | O1CC(C1)=O | C3H4O2
reactant | sodium cyanoborohydride | 0.338 mmol, 0.021 g | C(#N)[BH3-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | N-[4-(1-{[4-methyl-1-(oxetan-3-yl)piperidin-4-yl]methyl}-1H-pyrazol-4-yl)phenyl]-1-(6-methylpyridazin-3-yl)azetidine-3-carboxamide | CC1(CCN(CC1)C1COC1)CN1N=CC(=C1)C1=CC=C(C=C1)NC(=O)C1CN(C1)C=1N=NC(=CC1)C | C28H35N7O2
